US07507740B2
(ii) Production of 5-(2-aminoethyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine trihydrochloride
tert-Butyl {2-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate (790 mg) was dissolved in tetrahydrofuran (24 mL)/2N hydrochloric acid (12 mL), and the mixture was stirred at 60° C. for 16 hrs. The reaction mixture was concentrated under reduced pressure, ethanol (30 mL) was added to the residue and the mixture was concentrated again under reduced pressure. Ethyl acetate was added to the residue and the solid was collected by filtration and dried under reduced pressure to give the title compound (701 mg) as a solid powder.

reactant | tert-Butyl {2-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate | 790 mg | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC=1C2=C(N=CN1)C=CN2CCNC(OC(C)(C)C)=O | C26H30N6O3
reactant | hydrochloric acid | 2N, 12 mL | Cl | ClH
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
product | 5-(2-aminoethyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine trihydrochloride | 701 mg | Cl.Cl.Cl.NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C | InChI=1S/C21H22N6O.3ClH/c1-14-11-16(4-6-19(14)28-17-5-3-15(2)23-12-17)26-21-20-18(24-13-25-21)7-9-27(20)10-8-22;;;/h3-7,9,11-13H,8,10,22H2,1-2H3,(H,24,25,26);3*1H
